US07700655B2
(2) 5-Acetyl-2-benzyloxybenzoic acid
5-Acetyl-2-benzyloxybenzoic acid methyl ester (5.69 g, 20 mmol) was dissolved in a mixed solvent of methanol (20 mL) and tetrahydrofuran (20 mL). 2N Sodium hydroxide (11 mL) was added dropwise, and the mixture was stirred for 8 hours. The solvent was evaporated under reduced pressure. 2N Hydrochloric acid was added to the residue, and it was extracted with dichloromethane. After the dichloromethane layer was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated, the residue was washed with isopropyl ether to give the title compound (4.92 g, 91.0%) as a white solid.

reactant | 5-Acetyl-2-benzyloxybenzoic acid methyl ester | 20 mmol, 5.69 g | COC(C1=C(C=CC(=C1)C(C)=O)OCC1=CC=CC=C1)=O | C17H16O4
reactant | Sodium hydroxide | 2N, 11 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-Acetyl-2-benzyloxybenzoic acid | 4.92 g, 91.0% | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCC1=CC=CC=C1 | C16H14O4
